US06972340B2
2-{4-[2-methoxycarbonylamino-2-(2-trimethylsilanyl-ethoxycarbonyl)-ethyl]-naphthalen-1-ylamino}-benzoic acid
A mixture of 3-(4-amino-naphthalen-1-yl)-2-methoxycarbonylamino-propionic acid 2-trimethylsilanyl-ethyl ester (0.93 g, 2.40 mmol), diphenyliodonium-2-carboxylate (1.22 g, 3.8 mmol, 1.5 eq) and copper(II) acetate (25 mg, 0.14 mmol, 0.06 eq) in N,N-dimethylformamide (25 mL) was heated to 100° C. for 14 hours, then cooled to room temperature. The mixture was acidified to a pH <3 with 1N HCl, extracted with ethyl acetate (3×35 mL). The combined organic layers were washed with 1N HCl (1×25 mL), water (1×25 mL), brine (1×25 mL), and dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified on silica gel eluting with 4:1 toluene/ethyl acetate to provide the titled compound. MS ESI(−)) m/e 507 (M−H)−.

reactant | 3-(4-amino-naphthalen-1-yl)-2-methoxycarbonylamino-propionic acid 2-trimethylsilanyl-ethyl ester | 2.40 mmol, 0.93 g | C[Si](CCOC(C(CC1=CC=C(C2=CC=CC=C12)N)NC(=O)OC)=O)(C)C | C20H28N2O4Si
reactant | diphenyliodonium-2-carboxylate | 3.8 mmol, 1.22 g, 1.5 eq | C1=CC=C(C=C1)[I+]C2=CC=CC=C2C(=O)[O-] | C13H9IO2
reactant | HCl | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | copper(II) acetate | 0.14 mmol, 25 mg, 0.06 eq | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-{4-[2-methoxycarbonylamino-2-(2-trimethylsilanyl-ethoxycarbonyl)-ethyl]-naphthalen-1-ylamino}-benzoic acid | COC(=O)NC(CC1=CC=C(C2=CC=CC=C12)NC1=C(C(=O)O)C=CC=C1)C(=O)OCC[Si](C)(C)C | C27H32N2O6Si
